US04176191
5,6-Dimethoxy-3(4-furoyl piperazino)methylene oxindole (VIII)
3.0 g. of 5,6-Dimethoxy-3-hydroxymethylene oxindole was reacted with 4.0 g. N-furoyl piperazine as described in Example 2 except that 0.10 g. toluene sulfone acid was added as a catalyst. Yield 3.46 g. of product, m.p. 158°-160° C.

reactant | 5,6-Dimethoxy-3-hydroxymethylene oxindole | COC=1C=C2C(C(NC2=CC1OC)=O)=CO | C11H11NO4
reactant | N-furoyl piperazine | O1C(=CC=C1)C(=O)N1CCNCC1 | C9H12N2O2
product | 5,6-Dimethoxy-3(4-furoyl piperazino)methylene oxindole | COC=1C=C2C(C(NC2=CC1OC)=O)=CN1CCN(CC1)C(=O)C=1OC=CC1 | C20H21N3O5
